US05318966
3.37 g (0.01065 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-ol were dissolved in 60 ml of toluene. 2.155 g (2.97 ml, 0.0214 mol) of triethyl-amine and 130 mg (1065 mmol, 0.1 eq.) of 4-dimethylaminopyridine were added thereto in succession and then 1.96 ml (0.0213 mol) of dimethyl chloroformamide were added dropwise thereto. The mixture was boiled under reflux for 2 hours, then cooled, poured into water and extracted with toluene. The organic phase was washed with water, dried with Na2SO4, filtered and concentrated. By chromatography of the residue over silica gel with methanol there were obtained 3.66 g (89%) of oily rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-yl dimethylcarbamate.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-ol | 0.01065 mol, 3.37 g | N1(CCOCC1)CCCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C19H28N2O2
reactant | triethyl-amine | 0.0214 mol, 2.97 ml, 2.155 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl chloroformamide | 0.0213 mol, 1.96 ml | CC(=O)N(Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 1065 mmol, 130 mg, 0.1 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-morpholin-4-yl-propyl)-1H-benzo[e]indol-6-yl dimethylcarbamate | 3.66 g, 89% | CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCN2CCOCC2)=O)C | C22H33N3O3
